US06194406B1
Combine methyl 2-methylthio-5-nitrobenzoate (2.9 g, 12.7 mmol) and glacial acetic acid (100 mL). Heat to 90° C. Add iron powder (5 g) and water (20 mL) over about 10 minutes. After 30 minutes, the reaction mixture was filtered while still hot and diluted with water (500 mL). Extract the reaction mixture with ethyl acetate. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 20% ethyl acetate/hexane to give methyl 2-methylthio-5-aminobenzoate. Rf=0.51 (silica gel, 30% ethyl acetate/hexane).

reactant | methyl 2-methylthio-5-nitrobenzoate | 12.7 mmol, 2.9 g | CSC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C9H9NO4S
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
reactant | water | 20 mL | O | H2O
catalyst | iron | 5 g | [Fe] | Fe
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | methyl 2-methylthio-5-aminobenzoate | CSC1=C(C(=O)OC)C=C(C=C1)N | C9H11NO2S
